US08183246B2
6-{[6-(4-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester
Add 3 mg (0.01 mmol) trans-bis(dicyclohexylamine)palladium(II) acetate [T. Bin, J. Org. Chem. 2004, 69, 4330-4335] to a mixture of 100 mg (0.22 mmol) 6-{[6-bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester, 47 mg (0.34 mmol) 4-fluorophenylboronic acid and 95 mg (0.45 mmol) potassium phosphate in 5 ml dioxan, and stir for 21 h at 80° C. After filtering off the solid, concentrate the filtrate by vacuum evaporation. Purify the residue by preparative RP-HPLC (gradient: water/acetonitrile). 59 mg (57% of theor.) of the desired product is obtained.

reactant | 6-{[6-bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | 0.22 mmol, 100 mg | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)Br)=O | C20H22BrN3O4
reactant | 4-fluorophenylboronic acid | 0.34 mmol, 47 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium phosphate | 0.45 mmol, 95 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
catalyst | trans-bis(dicyclohexylamine)palladium(II) acetate | 0.01 mmol, 3 mg | CC(=O)O.CC(=O)O.C1CCC(CC1)[N-]C2CCCCC2.C1CCC(CC1)[N-]C2CCCCC2.[Pd+2]
product | 6-{[6-(4-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=C(C=C2)F)=O | C26H26FN3O4
